US08227492B2
Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-cyano sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide (50 mg, 0.000108 mol) and DMAP (14.5 mg, 0.000216 mol) in DCM (1 mL) was added cyanogen bromide (23 mg, 0.000216 mol) at 25° C. Reaction mixture was stirred at 25-30° C. for 18 hr and then diluted with DCM (10 mL). Organic layer was washed with dil.HCl. Drying over sodium sulfate and evaporation afforded 20 mg of titled compound in 37% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide | 0.000108 mol, 50 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=N)C | C20H16Cl2N4O3S
reactant | cyanogen bromide | 0.000216 mol, 23 mg | N#CBr | CBrN
catalyst | DMAP | 0.000216 mol, 14.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-cyano sulfoximide | 20 mg, 37% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC#N)C | C21H15Cl2N5O3S
